US08003647B2
4-(6-Chloro-3-cyano-5-methylindol-1-yl)benzoic acid ethyl ester
To a solution of 4-(6-chloro-3-cyano-5-trifluoromethanesulfonyloxyindol-1-yl)benzoic acid ethyl ester (0.103 g), trimethylboroxine (0.033 g) and tripotassium phosphate (0.070 g) in dioxane (2.0 mL) was added tetrakis(triphenylphosphine) palladium catalyst (0.038 g), and this mixture was stirred at 80° C. for 1 day. The reaction mixture was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=75/25) to give the title compound (0568 g).

reactant | 4-(6-chloro-3-cyano-5-trifluoromethanesulfonyloxyindol-1-yl)benzoic acid ethyl ester | 0.103 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=C(C=C12)Cl)OS(=O)(=O)C(F)(F)F)C#N)=O | C19H12ClF3N2O5S
reactant | trimethylboroxine | 0.033 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | tripotassium phosphate | 0.070 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium | 0.038 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(6-Chloro-3-cyano-5-methylindol-1-yl)benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=C(C=C12)Cl)C)C#N)=O | C19H15ClN2O2
